US07834190B2
Production of methyl (2S,3S)-3-amino-2-hydroxyhexanoate hydrochloride
Methyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate (0.2 g, 1.1 mmol), methanol (2 ml) and concentrated hydrochloric acid (0.25 ml) were mixed, and the mixture was stirred at room temperature for 3 hours. The solvent was evaporated away under reduced pressure to obtain the title compound as a white solid (0.1 g, yield: 50%).

reactant | Methyl (4S,5S)-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxylate | 1.1 mmol, 0.2 g | CC=1O[C@@H]([C@@H](N1)CCC)C(=O)OC | C9H15NO3
reactant | hydrochloric acid | 0.25 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | methyl (2S,3S)-3-amino-2-hydroxyhexanoate hydrochloride | 0.1 g, yield: 50% | Cl.N[C@H]([C@@H](C(=O)OC)O)CCC | InChI=1S/C7H15NO3.ClH/c1-3-4-5(8)6(9)7(10)11-2;/h5-6,9H,3-4,8H2,1-2H3;1H/t5-,6-;/m0./s1
